US07754759B2
((R)-7-Benzenesulfonyl-chroman-2-ylmethyl)-methyl-amine
A solution of toluene-4-sulfonic acid (R)-7-benzenesulfonyl-chroman-2-ylmethyl ester (274 mg, 0.6 mmol) and MeNH2 (2M in THF, 5 mL) was heated at 100° C. under microwave conditions for 6 hours. MeNH2 (40% in water, 2 mL) was then added and the mixture was heated at 100° C. under microwave conditions overnight. NaOH (10%) was added and the mixture was extracted 3 times with DCM. The combined organic extracts were washed with water, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified via flash chromatography to afford the desired product (172 mg). The product was recrystallized from DCM affording 8 mg ((R)-7-benzenesulfonyl-chroman-2-ylmethyl)-methyl-amine with 79% ee and from the evaporation of the mother liquors were recovered an additional 164 mg. Recrystallation from ethanolic HCl yielded the corresponding hydrochloride salt, Mp 271.8-273.0° C.

reactant | toluene-4-sulfonic acid (R)-7-benzenesulfonyl-chroman-2-ylmethyl ester | 0.6 mmol, 274 mg | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C2CC[C@@H](OC2=C1)COS(=O)(=O)C1=CC=C(C=C1)C | C23H22O6S2
reactant | MeNH2 | 2M, 5 mL | CN | CH5N
reactant | MeNH2 | 2 mL | CN | CH5N
reactant | NaOH | [OH-].[Na+]
product | ((R)-7-Benzenesulfonyl-chroman-2-ylmethyl)-methyl-amine | 172 mg | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C2CC[C@@H](OC2=C1)CNC | C17H19NO3S
